US09193714B2
A mixture of (3R)-3-(fluoromethyl)-1-(2-(4-(4-methyl-6-((tetrahydro-2H-pyran-2-yl)oxy)-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-2H-chromen-2-yl)phenoxy)ethyl)pyrrolidine (1.87 g, 2.9 mmol) in acetic acid (80% aq., 30 mL) was stirred at room temperature overnight. The acetic acid was removed and the residue was partitioned between ethyl acetate and sat'd aqueous NaHCO3. The organic layer was washed with sat'd aqueous NaHCO3, dried over sodium sulfate, filtered and the solvent removed. The residue was purified by flash chromatography on silica gel (0 to 5% methanol/dichloromethane) to afford 1.1 g of (R)-2-(4-(2-(3-(fluoromethyl)pyrrolidin-1-yl)ethoxy)phenyl)-3-(3-hydroxyphenyl)-4-methyl-2H-chromen-6-ol as a pinkish foam. 1H NMR (DMSO-d6): δ 9.43 (s, 1H), 8.94 (s, 1H), 7.18 (d, 2H), 7.14 (t, 1H), 6.78 (d, 2H), 6.73 (s, 1H), 6.67-6.65 (m, 2H), 6.65 (s, 1H), 6.49-6.45 (m, 2H), 5.83 (s, 1H), 4.35-4.30 (m, 1H), 4.23-4.19 (m, 1H), 3.96 (t, 2H), 2.71 (t, 2H), 2.60 (t, 1H), 2.46-2.40 (m, 3H), 2.36-2.31 (m, 1H), 2.02 (s, 3H), 1.83-1.76 (m, 1H), 1.39-1.30 (m, 1H); LCMS: 476 (M+H)+.

reactant | (3R)-3-(fluoromethyl)-1-(2-(4-(4-methyl-6-((tetrahydro-2H-pyran-2-yl)oxy)-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-2H-chromen-2-yl)phenoxy)ethyl)pyrrolidine | 2.9 mmol, 1.87 g | FC[C@H]1CN(CC1)CCOC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(=C1C1=CC(=CC=C1)OC1OCCCC1)C)OC1OCCCC1 | C39H46FNO6
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | (R)-2-(4-(2-(3-(fluoromethyl)pyrrolidin-1-yl)ethoxy)phenyl)-3-(3-hydroxyphenyl)-4-methyl-2H-chromen-6-ol | 1.1 g | FCC1CN(CC1)CCOC1=CC=C(C=C1)[C@H]1OC2=CC=C(C=C2C(=C1C1=CC(=CC=C1)O)C)O | C29H30FNO4
